US07872009B2
Step 2: (±)-Lithium 3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxylate
A solution of lithium hydroxide monohydrate (1.43 g, 34.2 mmol) in water (50 mL) was added to a solution of ethyl 3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxylate (3.55 g, 17.1 mmol) in dioxane (50 mL), and the mixture was stirred at 25° C. for 21 h. The reaction mixture was concentrated to afford the title compound. MS m/z: 180 (M+1 of acid).

reactant | lithium hydroxide monohydrate | 34.2 mmol, 1.43 g | O.[OH-].[Li+]
reactant | ethyl 3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxylate | 17.1 mmol, 3.55 g | O1C2=C(NCC1C(=O)OCC)C=CC=C2 | C11H13NO3
solvent | water | 50 mL | O | H2O
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | (±)-Lithium 3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxylate | O1C2=C(NCC1C(=O)[O-])C=CC=C2.[Li+] | InChI=1S/C9H9NO3.Li/c11-9(12)8-5-10-6-3-1-2-4-7(6)13-8;/h1-4,8,10H,5H2,(H,11,12);/q;+1/p-1
